US08937071B2
A solution of N-(4-cyano-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (15 mg, 0.026 mmol) in HCl (MeOH (solvate), 5 mL, 0.026 mmol) was stirred at 20° C. After LCMS analysis showed the starting material had disappeared, the solvent was removed in vacuo. The crude product was purified by preparative HPLC to yield a white solid of N-(4-cyano-3-(trifluoro-methyl)phenyl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide (3 mg, 6.39 μmol, 24.7% yield): 1H NMR (400 MHz, CD3OD) δ 8.23 (s, 1H), 7.99 (s, 1H), 7.91 (d, J=8.4 Hz, 1H), 7.41 (m, 1H), 7.37-7.34 (m, 3H), 7.29 (d, J=2.0 Hz, 1H), 4.17-4.11 (m, 2H), 3.84 (s, 2H), 1.46 (t, J=6.8 Hz, 3H); ES-LCMS m/z 460.1 (M+H).

reactant | N-(4-cyano-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.026 mmol, 15 mg | C(#N)C1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O)C(F)(F)F | C31H25F4N3O4
reactant | HCl | 0.026 mmol, 5 mL | Cl | ClH
product | N-(4-cyano-3-(trifluoro-methyl)phenyl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide | 6.39 μmol, 3 mg, 24.7% yield | C(#N)C1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1)C1=CNC(C(=C1)OCC)=O)F)=O)C(F)(F)F | C23H17F4N3O3
